US04284642
A mixture of 109 g (0.5 moles) of 2,3-dibromo-propan-1-ol, 248 ml (242.4 g, 2.0 moles) of 2,6-dimethylaniline and 1.0 g (6 mmoles) of potassium iodide is stirred at 140° to 145° C. for 3 hours under nitrogen atmosphere. The mixture is allowed to cool to about 80° C., and 100 ml of isopropanol, followed by 500 ml of 20% aqueous hydrochloric acid, are added. The mixture is allowed to stand overnight, thereafter the separated precipitate is filtered off, washed with water and dried. The resulting solid, weighing 170 g, is dissolved in 1500 ml of methanol, the pH of the solution is adjusted to 10 with 10 n aqueous sodium hydroxide solution, and the mixture is diluted with 1500 ml of water. The separated precipitate is filtered off, washed with water and dried. 99 g (66.4%) of crude 2,3-bis(2',6'-dimethylphenylamino)-1-propanol are obtained. The product melts at 92°-94° C. after recrystallization from methanol.

reactant | 2,3-dibromo-propan-1-ol | 0.5 moles, 109 g | BrC(CO)CBr | C3H6Br2O
reactant | 2,6-dimethylaniline | 2.0 moles, 248 ml, 242.4 g | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | hydrochloric acid | 500 ml | Cl | ClH
catalyst | potassium iodide | 6 mmoles, 1.0 g | [I-].[K+]
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 2,3-bis(2',6'-dimethylphenylamino)-1-propanol | 99 g, 66.4% | CC1=C(C(=CC=C1)C)NC(CO)CNC1=C(C=CC=C1C)C | C19H26N2O
